US05130119
2-[N-(2,4,6 Trifluorophenyl)sulfamoyl]-acetic acid methyl ester
0.76 g (5 mmol) of 2,4,6-trifluoroaniline is dissolved in 40 ml of dichloroethane with exclusion of moisture, 0.4 ml (5 mmol) of pyridine is added, 0.86 g (5 mmol) of chlorosulfonyl acetic acid methyl ester, dissolved in 10 ml of dichloroethane, is instilled at 0° C. and then it is stirred for 1 hour at 0° C. and 12 hours at room temperature. The reaction solution is then shaken out twice with 10 ml of 2N hydrochloric acid each, the phases are separated, the organic phase is dried on magnesium sulfate, filtered and evaporated to dryness. The residue is crystallized from diethyl ether/pentane 1:1. 790 mg (2.79 mmol)=55.79% of the theoretical yield is obtained as a crystallizate. Melting point 99-100° C.

reactant | 2,4,6-trifluoroaniline | 5 mmol, 0.76 g | FC1=C(N)C(=CC(=C1)F)F | C6H4F3N
reactant | pyridine | 5 mmol, 0.4 ml | N1=CC=CC=C1 | C5H5N
reactant | chlorosulfonyl acetic acid methyl ester | 5 mmol, 0.86 g | COC(CS(=O)(=O)Cl)=O | C3H5ClO4S
reactant | hydrochloric acid | 2N, 10 ml | Cl | ClH
solvent | dichloroethane | 40 ml | ClC(C)Cl | C2H4Cl2
solvent | dichloroethane | 10 ml | ClC(C)Cl | C2H4Cl2
product | 2-[N-(2,4,6 Trifluorophenyl)sulfamoyl]-acetic acid methyl ester | COC(CS(NC1=C(C=C(C=C1F)F)F)(=O)=O)=O | C9H8F3NO4S
